US06949542B2
{4-Chloro-2-[3-oxo-3-(3-pyridin-4-yl-phenyl)-propionylamino]-phenyl}-carbamic acid tert-butyl ester
Prepared from (2-amino-4-chloro-phenyl)-carbamic acid tert-butyl ester (Example J4) and 3-oxo-3-(3-pyridin-4-yl-phenyl)-propionic acid tert-butyl ester (Example K2) according to the general procedure M. Obtained as a yellow solid (270 mg).

reactant | (2-amino-4-chloro-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)Cl)N)=O | C11H15ClN2O2
reactant | 3-oxo-3-(3-pyridin-4-yl-phenyl)-propionic acid tert-butyl ester | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C1=CC=NC=C1)=O)=O | C18H19NO3
product | {4-Chloro-2-[3-oxo-3-(3-pyridin-4-yl-phenyl)-propionylamino]-phenyl}-carbamic acid tert-butyl ester | 270 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)Cl)NC(CC(C1=CC(=CC=C1)C1=CC=NC=C1)=O)=O)=O | C25H24ClN3O4
